US07601722B2
In an analogous manner to general procedure V, 1-[2-(bromomethyl)benzyl]-3-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (38 mg, 0.082 mmol) was treated with methyl amine to give 1-(2-{[3-(2,3-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N-methylmethanamine hydrochloride (18 mg, 48%) after treatment with HCl.

reactant | 1-[2-(bromomethyl)benzyl]-3-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.082 mmol, 38 mg | BrCC1=C(CN2S(N(C3=C2C=CC=C3)C3=C(C(=CC=C3)F)F)(=O)=O)C=CC=C1 | C20H15BrF2N2O2S
reactant | methyl amine | CN | CH5N
reactant | HCl | Cl | ClH
product | 1-(2-{[3-(2,3-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N-methylmethanamine hydrochloride | 18 mg, 48% | Cl.FC1=C(C=CC=C1F)N1S(N(C2=C1C=CC=C2)CC2=C(C=CC=C2)CNC)(=O)=O | InChI=1S/C21H19F2N3O2S.ClH/c1-24-13-15-7-2-3-8-16(15)14-25-18-10-4-5-11-19(18)26(29(25,27)28)20-12-6-9-17(22)21(20)23;/h2-12,24H,13-14H2,1H3;1H
